US07439260B2
Step 1: 3-(2-Mercapto-1,3-thiazol-4-yl)pentan-3-ol
To a solution of ethyl 2-mercapto-1,3-thiazole-4-carboxylate ((Ref: J. Am. Chem. Soc. 1935, 57, 1127), 0.694 g, 3.67 mmol) in Et2O (40 mL) at 0° C. was added EtMgBr (3 M in Et2O, 2.7 mL, 8.07 mmol). The reaction mixture was heated to reflux for 15 min, quenched with NH4Cl, extracted with 3 portions of Et2O, dried over MgSO4, filtered and concentrated in vacuo. The crude material was treated with more EtMgBr (3 M in Et2O, 6 mL, 18 mmol) at rt for 10 min, quenched, extracted and isolated in the same way. The residue was washed with Et2O and Et2O/hexane to afford the title compound.

reactant | ethyl 2-mercapto-1,3-thiazole-4-carboxylate | 3.67 mmol, 0.694 g | SC=1SC=C(N1)C(=O)OCC | C6H7NO2S2
reactant | EtMgBr | 8.07 mmol, 3 M, 2.7 mL | CC[Mg+].[Br-]
reactant | EtMgBr | 18 mmol, 3 M, 6 mL | CC[Mg+].[Br-]
reactant | Et2O | 40 mL | CCOCC | C4H10O
product | 3-(2-Mercapto-1,3-thiazol-4-yl)pentan-3-ol | SC=1SC=C(N1)C(CC)(CC)O | C8H13NOS2
